US07884124B2
To a solution of ethyl 6H-thieno[2,3-b]pyrrole-5-carboxylate (0.06 g, 0.31 mmol) in dichloromethane (1 mL) was added TBAF (1M THF, 0.46 mL) followed by N-bromosuccinimide (NBS) (0.07 g, 0.4 mmol). The resulting mixture was allowed to stir at 23° C. for 16 h at which time the entire reaction mixture was placed on a silica gel column. Flash column chromatography (20% EtOAc in hexanes) affords one major peak containing a mixture of 4-bromo and 2,4-dibromo products. Separation of the desired product from the byproduct by RP-HPLC (10-100% gradient 0.1% formic acid in H2O to CH3CN over 10 min) afforded ethyl 4-bromo-6H-thieno[2,3-b]pyrrole-5-carboxylate (0.03 g, 35% yield).

reactant | ethyl 6H-thieno[2,3-b]pyrrole-5-carboxylate | 0.31 mmol, 0.06 g | S1C=CC2=C1NC(=C2)C(=O)OCC | C9H9NO2S
reactant | TBAF | 1M, 0.46 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | N-bromosuccinimide | 0.4 mmol, 0.07 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | ethyl 4-bromo-6H-thieno[2,3-b]pyrrole-5-carboxylate | 0.03 g, 35% yield | BrC=1C2=C(NC1C(=O)OCC)SC=C2 | C9H8BrNO2S
